US04414221
3,5-Bis(2-chlorophenyl)-1,2,4-oxadiazole
2-Chlorobenzoyl chloride (2.6 g) was dissolved in dioxan (90 ml) and 2-chlorobenzamidoxime (2.5 g) was added with stirring, followed by boron trifluoride etherate (0.2 ml). The solution was heated at reflux for 18 hours and was run down. The product was taken up in dichloromethane, and the solution was washed successively with saturated aqueous sodium bicarbonate, water, and saturated sodium chloride solution. It was then dried over magnesium sulphate, run down and recrystallised from ethanol to yield 2.3 g of desired product, mp 91°-92° C.

reactant | 2-Chlorobenzoyl chloride | 2.6 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 2-chlorobenzamidoxime | 2.5 g | ClC1=C(C(N)=NO)C=CC=C1 | C7H7ClN2O
reactant | boron trifluoride etherate | 0.2 ml | B(F)(F)F.CCOCC
solvent | dioxan | 90 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,5-Bis(2-chlorophenyl)-1,2,4-oxadiazole | 2.3 g | ClC1=C(C=CC=C1)C1=NOC(=N1)C1=C(C=CC=C1)Cl | C14H8Cl2N2O
